US08030302B2
N-(5-Hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide
To a solution of N-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide (1.7 g, 3.78 mmol) in EtOH (100 mL) and EtOAc (100 mL) is added Pd/C (1 g, 10% wt). After the reaction mixture is stirred at RT under H2 overnight, it is filtered and the filtrate is concentrated. The residue is purified by silica gel column chromatography eluting first with PE:EtOAc (1:1) and then EtOAc to give the product (1.2 g, 88.2% yield). MS (m/z): 360.2 (M+H).

reactant | N-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide | 3.78 mmol, 1.7 g | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1N(C(C)=O)C1CCOCC1)C1OCCCC1 | C26H31N3O4
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | N-(5-Hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)-N-(tetrahydro-2H-pyran-4-yl)acetamide | 1.2 g, 88.2% yield | OC=1C=C2C=NN(C2=CC1N(C(C)=O)C1CCOCC1)C1OCCCC1 | C19H25N3O4
